US05922738
(a) 2,4,6-Tris(1-methyl-3-trifluoromethylpyrazol-5-yloxy)pyridine
A stirred mixture of 2,4,6-trifluoropyridine (4.8 g, 36 mmol), 5-hydroxy-1-methyl-3-trifluoromethylpyrazole (19.8 g, 119 mmol) and potassium carbonate (18.1 g, 131 mmol) in anhydrous sulfolane (25 ml) is heated to 80° C. over a period of 3 days.

reactant | 2,4,6-trifluoropyridine | 36 mmol, 4.8 g | FC1=NC(=CC(=C1)F)F | C5H2F3N
reactant | 5-hydroxy-1-methyl-3-trifluoromethylpyrazole | 119 mmol, 19.8 g | OC1=CC(=NN1C)C(F)(F)F | C5H5F3N2O
reactant | potassium carbonate | 131 mmol, 18.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | sulfolane | 25 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 2,4,6-Tris(1-methyl-3-trifluoromethylpyrazol-5-yloxy)pyridine | CN1N=C(C=C1OC1=NC(=CC(=C1)OC1=CC(=NN1C)C(F)(F)F)OC1=CC(=NN1C)C(F)(F)F)C(F)(F)F | C20H14F9N7O3
